US08871767B2
2-(4-ethynyl-3-nitrophenyl)-6-(2-fluorophenyl)imidazo[1,2-b]pyridazine
A stirred mixture of 6-(2-fluorophenyl)-2-(3-nitro-4-((trimethylsilyl)ethynyl)phenyl)imidazo[1,2-b]pyridazine (0.250 g, 0.58 mmol) in acetonitrile (100 mL) containing catalytic cesium carbonate (0.101 mmol) in water (0.031 mL) is heated at 60° C. for 4 hours. The mixture is concentrated to dryness then purified via chromatography using CH2Cl2 to afford the title product (0.170 g, 82%) as a yellow solid: Rf 0.40 (CH2Cl2); LCMS (m/z)=359.4 [M+H]+, tR=3.02 min.

reactant | 6-(2-fluorophenyl)-2-(3-nitro-4-((trimethylsilyl)ethynyl)phenyl)imidazo[1,2-b]pyridazine | 0.58 mmol, 0.250 g | FC1=C(C=CC=C1)C=1C=CC=2N(N1)C=C(N2)C2=CC(=C(C=C2)C#C[Si](C)(C)C)[N+](=O)[O-] | C23H19FN4O2Si
reactant | cesium carbonate | 0.101 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 0.031 mL | O | H2O
product | 2-(4-ethynyl-3-nitrophenyl)-6-(2-fluorophenyl)imidazo[1,2-b]pyridazine | 0.170 g, 82% | C(#C)C1=C(C=C(C=C1)C=1N=C2N(N=C(C=C2)C2=C(C=CC=C2)F)C1)[N+](=O)[O-] | C20H11FN4O2
